US08431722B2
Next, a four neck flask having a content volume of 200 mL equipped with a thermometer, a distilling head and a stirring device was charged with 137.4 g of water, 42.2 mg of sulfuric acid and 24.2 g (130 mmol) of 3-(2,2-dimethoxyethyloxy)-2-butanol. The mixture was stirred for 11 hours on the conditions of a pressure of 18.0 kPa and a vessel inside temperature of 60° C. while removing water and resulting methanol by distillation. In this regard, the reaction solution was analyzed by gas chromatography to find that a conversion rate of 3-(2,2-dimethoxyethyloxy)-2-butanol was 99.6%. After the vessel inside temperature was lowered down to room temperature, the pH was adjusted to 8.0 by a 10.0 mass % sodium hydroxide aqueous solution, and the reaction solution was extracted three times with 300 g of ethyl acetate. The extracts of three extractions thus obtained were put together and concentrated under reduced pressure, and the concentrate obtained was refined by silica gel chromatography to obtain 9.66 g (72.2 mmol) of 5,6-dimethyl-1,4-dioxane-2-ol in the form of a colorless and transparent oil (purity: 98.8%, yield: 55.5% based on 3-(2,2-dimethoxyethyloxy)-2-butanol).

reactant | 3-(2,2-dimethoxyethyloxy)-2-butanol | 130 mmol, 24.2 g | COC(COC(C(C)O)C)OC | C8H18O4
catalyst | sulfuric acid | 42.2 mg | S(O)(O)(=O)=O | H2O4S
solvent | water | 137.4 g | O | H2O
product | 5,6-dimethyl-1,4-dioxane-2-ol | 72.2 mmol, 9.66 g, yield: 55.5% | CC1OCC(OC1C)O | C6H12O3
